US08420642B2
Preparation of (5-phenoxy-pyridine-2-yl)-thiazole-2-yl-amine (“A8”)
8.4 (5-Phenoxy-pyridine-2-yl)-thiourea (0.3 mmol) is dissolved in DMF (1 ml) and chloro-acetaldehyde (1.1 eq., 55% in water) is added and stirred 2 h at 70° C. After cooling to RT the precipitate is filtered, washed with water and dried 16 h in vacuo at 40° C. (5-Phenoxy-pyridine-2-yl)thiazole-2-yl-amine is obtained as colourless powder in a yield of 66%; mp. 161.4-162.4° C.; HPLC (method C): 1.69 min; LC-MS (method A): 1.559 min, 270.15 (M+H+); 1H-NMR (DMSO-d6, 500 MHz): δ [ppm] 11.248 (s, 1H), 8.114 (d, 1H, J=2.7 Hz), 7.523 (dd, 1H, J=9.0 Hz, J=2.7 Hz), 7.387-7.355 (m, 3H), 7.151 (d, 1H, J=9.0 Hz), 7.107 (t, 1H, J=7.1 Hz), 6.997-6.967 (m, 3H).

reactant | (5-Phenoxy-pyridine-2-yl)-thiourea | 0.3 mmol | O(C1=CC=CC=C1)C=1C=CC(=NC1)NC(=S)N | C12H11N3OS
reactant | chloro-acetaldehyde | 1.1 eq. | ClCC=O | C2H3ClO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (5-phenoxy-pyridine-2-yl)-thiazole-2-yl-amine | O(C1=CC=CC=C1)C=1C=CC(=NC1)NC=1SC=CN1 | C14H11N3OS
